US07229999B2
In analogy to example 1f, 5-(4-chloro-phenyl)-6-[(2-methoxy-ethyl)-methyl-amino]-nicotinic acid was coupled with cis-2-aminomethyl-1-cyclohexanol hydrochloride using TBTU and N,N-diisopropyl ethyl amine in N,N-dimethylacetamide to give racemic 5-(4-chloro-phenyl)-N-((1RS,2RS)-2-hydroxy-cyclohexylmethyl)-6-[(2-methoxy-ethyl)-methyl-amino]-nicotinamide as an off-white solid. MS (ISP) 432.4 (M+H)+.

reactant | 5-(4-chloro-phenyl)-6-[(2-methoxy-ethyl)-methyl-amino]-nicotinic acid | ClC1=CC=C(C=C1)C=1C(=NC=C(C(=O)O)C1)N(C)CCOC | C16H17ClN2O3
reactant | cis-2-aminomethyl-1-cyclohexanol hydrochloride | Cl.NC[C@@H]1[C@@H](CCCC1)O
reactant | TBTU | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.[B-](F)(F)(F)F
reactant | N,N-diisopropyl ethyl amine | C(C)(C)N(C(C)C)CC | C8H19N
solvent | N,N-dimethylacetamide | CN(C(C)=O)C | C4H9NO
product | racemic 5-(4-chloro-phenyl)-N-((1RS,2RS)-2-hydroxy-cyclohexylmethyl)-6-[(2-methoxy-ethyl)-methyl-amino]-nicotinamide | ClC1=CC=C(C=C1)C=1C(=NC=C(C(=O)NCC2C(CCCC2)O)C1)N(C)CCOC | C23H30ClN3O3
